US06590118B1
N-{2-[3,4-Bis-(1H-tetrazol-5-yl)phenoxy]phenyl}acetamide (Compound 166)
A mixture of N-{2-[3-cyano-4-(1H-tetrazol-5-yl)phenoxy]phenoxy}acetamide and N-{2-[4-cyano-3-(1H-tetrazol-5-yl)phenoxy]phenyl}acetamide (0.45 g, 1.4 mmol) was dissolved in dry DMF (20 ml). Ammonium chloride (0.17 g, 3.1 mmol), sodium azide (0.2 g, 3.1 mmol), and lithium chloride (0.13 g, 3.1 mmol) were added. The reaction mixture was heated at 120° C. for 120 hours. The reaction mixture was evaporated in vacuo and purified on a silica gel column (eluent:methylene chloride/methanol (2:1)). The yielded oil was used without any further purification in the next step.

reactant | N-{2-[3-cyano-4-(1H-tetrazol-5-yl)phenoxy]phenoxy}acetamide | C(#N)C=1C=C(OC2=C(ONC(C)=O)C=CC=C2)C=CC1C1=NN=NN1 | C16H12N6O3
reactant | N-{2-[4-cyano-3-(1H-tetrazol-5-yl)phenoxy]phenyl}acetamide | 1.4 mmol, 0.45 g | C(#N)C1=C(C=C(OC2=C(C=CC=C2)NC(C)=O)C=C1)C1=NN=NN1 | C16H12N6O2
reactant | Ammonium chloride | 3.1 mmol, 0.17 g | [Cl-].[NH4+]
reactant | sodium azide | 3.1 mmol, 0.2 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium chloride | 3.1 mmol, 0.13 g | [Cl-].[Li+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-{2-[3,4-Bis-(1H-tetrazol-5-yl)phenoxy]phenyl}acetamide | N1N=NN=C1C=1C=C(OC2=C(C=CC=C2)NC(C)=O)C=CC1C1=NN=NN1 | C16H13N9O2
